US05296602
A mixture of 6-benzyloxy-1-hydroxy-10-methyl-2,3,4,5-tetramethoxy-9-acridone (344 mg, 0.76 mmol) in ethanol (80 ml) containing dioxane (20 ml) and 10% palladium on carbon (200 mg) was hydrogenated at 50 psi for 2.5 hours. The mixture was filtered through a pad of Celite and washed well with ethanol and chloroform. The combined filtrate and washings were evaporated in vacuo to dryness. The solid residue was recrystallized from a mixture of ethanol/hexane (2:3) to give 1,6-Dihydroxy-2,3,4,5-tetramethoxy-9-acridone, 222 mg (80.7%), mp 214-5 ° C. 1H-NMR (DMSO-d6): δ3.69, 3.75, 3.78, 3.80, and 4.02 (each 3H, s, 4×OMe, 1×NMe), 6.94 (1H, d, J=9.0 Hz, H-7), 7.84 (1H, d, J =9.0 Hz, H-8), 10.45 (1H, exchangeable, OH-6), 14.18 (lH, exchangeable, OH-1). Analyses: Calculated for C18H19NO7 : C, 59.83; H, 5.30; N, 3.88. Found C, 60.00, H, 5.38; N, 4.00.

reactant | 6-benzyloxy-1-hydroxy-10-methyl-2,3,4,5-tetramethoxy-9-acridone | 0.76 mmol, 344 mg | C(C1=CC=CC=C1)OC=1C(=C2N(C=3C(=C(C(=C(C3C(C2=CC1)=O)O)OC)OC)OC)C)OC | C25H25NO7
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 1,6-Dihydroxy-2,3,4,5-tetramethoxy-9-acridone | OC1=C(C(=C(C=2NC3=C(C(=CC=C3C(C12)=O)O)OC)OC)OC)OC | C17H17NO7
